US07615642B2
2-tert-Butyl-5-[(4-methyl-1H-pyrazol-1-yl)sulfonyl]-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (371 mg, 1.0 mmol), 4-methyl-1H-pyrazole (164 mg, 2.0 mmol) and DMAP (366 mg, 3.0 mmol) in MeCN (10 mL). The crude product was purified by MPLC using Hex/EtOAc (1:2) on silica gel to give 165 mg (40% yield) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.41-1.58 (m, 4 H), 1.61 (s, 9 H), 2.05 (s, 3 H), 2.22-2.47 (m, 1 H), 3.30-3.40 (m, 2 H), 3.91 (m, 2 H), 4.43 (d, J=7.62 Hz, 2 H), 7.60 (s, 1 H), 7.91 (d, J=8.2 Hz, 1 H), 7.95 (dd, J=8.8, 1.8 Hz, 1H), 8.05-8.14 (m, 1 H), 8.28 (d, J=1.17 Hz, 1 H); MS (ESI) (M+H)+=416.8.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 1.0 mmol, 371 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | 4-methyl-1H-pyrazole | 2.0 mmol, 164 mg | CC=1C=NNC1 | C4H6N2
catalyst | DMAP | 3.0 mmol, 366 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 2-tert-Butyl-5-[(4-methyl-1H-pyrazol-1-yl)sulfonyl]-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C | C21H28N4O3S
